Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[O:10][C:11]([H:12])[H:13].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8](\[H:9])[O:10][C:11]([H:12])[H:13],-4.3723078209900015
[H:1][O:2][C:3]([O:4][H:5])=[C:6]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:7]>>[H:1][O:2][C:3]([O:4][H:5])[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-2.0593687149
[H:1][C:2]([H:3])[H:4].[O:5]=[C:6]=[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2]([H:3])([H:4])[O:5][C:6]=[C:7]([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],0.1357056822099999
[H:1][C:2]#[C:3].[O:4][C:5]([H:6])([H:7])[C:8]#[C:9][H:10]>>[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]#[C:9][H:10],-5.08474178946
[C:1]=[C:2]1[O:3][C:4]1([H:5])[H:6]>>[C:1]#[C:2][C:4]([O:3])([H:5])[H:6],1.98807235207
[C:7]([H:8])([H:9])[O:10][H:11].[H:1][C:2][O:3][C:4]#[C:5][H:6]>>[H:1][C:2][O:3]/[C:4]=[C:5](\[H:6])[C:7]([H:8])([H:9])[O:10][H:11],-1.78048739716
[C:5](=[C:6]([H:7])[H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[O:1]=[C:2]([H:3])[H:4]>>[O:1][C:2]([H:3])([H:4])[C:5]([C:6]([H:7])[H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],1.89741411
[O:1]=[C:2][C@@:3]([H:4])([C:5](=[O:6])[H:7])[C:8]([H:9])([H:10])[H:11]>>[C:5](=[O:6])[H:7].[O:1]=[C:2]=[C:3]([H:4])[C:8]([H:9])([H:10])[H:11],1.25508813617
[H:1][C:2]1[C:3]([H:4])([H:5])[O:6][C@:7]1([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][C:2][C@:7]([O:6][C:3]([H:4])[H:5])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],3.18400723918
[C:5]#[C:6][C:7]([H:8])([H:9])[H:10].[H:1][C:2]#[C:3][O:4]>>[H:1][C:2]#[C:3][O:4][C:5]#[C:6][C:7]([H:8])([H:9])[H:10],-3.14291379811
[C:9]([H:10])([H:11])[H:12].[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[H:8]>>[H:1]/[C:2](=[C:3]\[O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12],-1.8114780283400005
[H:1][O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C@:9]([H:10])([C:11]([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:14]([H:15])([H:16])[H:17].[H:1][O:2][C@:3]([H:4])([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],1.26162403653
[H:1][C:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11]>>[C:2][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11].[H:1][C:4]#[C:3],5.8052916555400005
[O:1]=[C:2]([O:3][C:4]([H:5])=[C:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[C:2]([O:3][C:4]([H:5])=[C:6][H:7])[C:8]([H:9])([H:10])[H:11].[O:1],7.69173158844
[H:1][C:2]([H:3])[C:4]#[C:5][O:6][C:7]([H:8])[H:9]>>[C:4]#[C:5][O:6][C:7]([H:8])[H:9].[H:1][C:2][H:3],6.7811491441
[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:1][O:2]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-6.3866832569800005
[C:1]#[C:2][C:3]([H:4])[O:5][C:6]([H:7])[C:9]([H:10])([H:11])[H:12].[H:8]>>[C:1]#[C:2][C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],-4.24480298259
[H:17].[H:1][C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C@:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])[H:16]>>[H:1][C:2]([H:3])[C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-3.7967252696
[C:11]([H:12])[H:13].[H:1][O:2][O:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])[H:10]>>[H:1][O:2][O:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-5.4074666533
[C:1].[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])=[C:11][H:12]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])=[C:11][H:12],-3.8815270753199993
[H:1][C:2]#[C:3][C:4]([H:5])[O:6][C:7]([H:8])[O:9][H:10]>>[H:1][C:2]#[C:3][C:4]([H:5])[O:6][C:7][O:9][H:10].[H:8],2.86987690246
[H:1][O:2][C:3]([H:4])=[C:5][H:6].[H:7]>>[H:1][O:2][C:3]([H:4])=[C:5]([H:6])[H:7],-5.11376410106
[C:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12]>>[C:1].[C:2]([H:3])([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[H:12],3.62804004356
[H:1][C:2]=[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[O:12][H:13]>>[C:3]([H:4])[C:5]([H:6])([H:7])[O:8][C:9]([H:10])([H:11])[O:12][H:13].[H:1][C:2],8.53625367377
[H:13].[H:1][C:2]([H:3])[O:4][C@@:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])=[C:14]([H:15])[H:16]>>[H:1][C:2]([H:3])[O:4][C@:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])[H:16],-1.78937601869
[H:1][O:2][C@@:3]([C:4]([H:5])[H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[C:3](=[C:4]([H:5])[H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:1][O:2],2.6213033780900004
[H:1][C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[O:9][C:10][O:11][H:12]>>[C:6]([H:7])([H:8])[O:9][C:10][O:11][H:12].[H:1][C:2]=[C:3]([H:4])[H:5],1.18758228485
[C:5]=[C:6]([H:7])[H:8].[O:1][C:2]#[C:3][H:4]>>[O:1]=[C:2]=[C:3]([H:4])[C:5]=[C:6]([H:7])[H:8],-4.07187611743
[C:3]([H:4])[O:5][C:6]([O:7][H:8])=[C:9]([H:10])[H:11].[H:1][C:2]>>[H:1][C:2]=[C:3]([H:4])[O:5][C:6]([O:7][H:8])=[C:9]([H:10])[H:11],-7.50935578406
